US07951838B2
To a solution of N-((2S,3S)-1-(benzo[d][1,3]dioxol-5-yl)-3,4-bis(tert-butyldimethylsilyloxy)butan-2-yl)-2-methylpropane-2-sulfinamide (2300 mg, 4 mmol) in 25 mL of ethanol at 0° C. was added 4M HCl in dioxane (6 ml, 25 mmol). After stirring at 0° C. for a total of 7 hours, TEA (4 ml, 29 mmol) was added dropwise followed by addition of 25 mL of DCM and di-tert-butyl dicarbonate (2 g, 9 mmol). The mixture was stirred at rt for 48 hours, then diluted with DCM (50 mL) and poured in saturated ammonium chloride (250 mL). The aqueous layer was extracted with DCM (4×100 mL). The combined organic layers were washed with water and brine and dried over Na2SO4, filtered and concentrated under reduced pressure, to provide an oil that was flashed through a plug of silica gel to provide tert-butyl (2S,3S)-1-(benzo[d][1,3]dioxol-5-yl)-3-(tert-butyldimethylsilyloxy)-4-hydroxybutan-2-ylcarbamate as a colorless oil.

reactant | N-((2S,3S)-1-(benzo[d][1,3]dioxol-5-yl)-3,4-bis(tert-butyldimethylsilyloxy)butan-2-yl)-2-methylpropane-2-sulfinamide | 4 mmol, 2300 mg | O1COC2=C1C=CC(=C2)C[C@@H]([C@@H](CO[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)NS(=O)C(C)(C)C | C27H51NO5SSi2
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 25 mmol, 6 ml | O1CCOCC1 | C4H8O2
reactant | di-tert-butyl dicarbonate | 9 mmol, 2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | ammonium chloride | 250 mL | [Cl-].[NH4+]
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (2S,3S)-1-(benzo[d][1,3]dioxol-5-yl)-3-(tert-butyldimethylsilyloxy)-4-hydroxybutan-2-ylcarbamate | O1COC2=C1C=CC(=C2)C[C@@H]([C@@H](CO)O[Si](C)(C)C(C)(C)C)NC(OC(C)(C)C)=O | C22H37NO6Si
